US06809199B2
The benzyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}-2-methylpiperazine-1-carboxylate was prepared from 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-carbaldehyde (INTERMEDIATE AAA1) and 1-CBz-2-methylpiperazine as described in EXAMPLE AAA1, STEP A. 1H NMR (CDCl3, 500 MHz): δ 1.08 (d, 3H, J=5.9 Hz), 2.00 (m, 1H), 2.10 (m, 1H), 2.52 (d, 1H, J=11.0 Hz), 2.70 (m, 1H), 3.06 (m, 1H), 3.26 (m, 1H), 3.46 (m, 1H), 3.86 (d, 1H, J=12.5 Hz), 4.24.5 (m, 3H), 5.05 (s, 1H), 5.14 (abq, 2H, J=12.4 Hz), 6.25 (d, 1H, J=13.3 Hz), 6.82 (s, 1H), 7.30-7.60 (m, 12H). MS (API-ES+): 651 (M+H).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-carbaldehyde | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)C=O)C1=C(C=CC=C1Cl)Cl)=O | C21H13Cl3N2O2
reactant | 1-CBz-2-methylpiperazine | C(=O)(OCC1=CC=CC=C1)N1C(CNCC1)C | C13H18N2O2
product | benzyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}-2-methylpiperazine-1-carboxylate | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)CN1CC(N(CC1)C(=O)OCC1=CC=CC=C1)C)C1=C(C=CC=C1Cl)Cl)=O | C34H31Cl3N4O3
